US06734186B1
4-{[(1-{3-tert-Butoxy-2-[(2-methoxyethoxy)methyl]-3-oxopropyl}cyclopentyl)-carbonyl]amino}cyclohexanecarboxylic Acid
A mixture of benzyl 4-{[(1-{3-tert-butoxy-2-[(2-methoxyethoxy)methyl]-3-oxopropyl}cyclopentyl)carbonyl]amino}cyclohexanecarboxylate (EP 274234), and 10% palladium on charcoal (250 mg) in water (10 ml) and ethanol (50 ml) was hydrogenated at 50 psi and room temperature for 18 hours. The reaction mixture was filtered through Solkafloc®, the filtrate concentrated under reduced pressure and the residue azeotroped with toluene (3×) and then dichloromethane (3×), to give the title compound, 2.0 g, 96%; 1H NMR (CDCl3, 300 MHz) δ: 1.48 (s, 9H), 1.53-1.84 (m, 14H), 1.94-2.10 (m, 5H), 2.60 (m, 2H), 3.40 (s, 3H), 3.41-3.63 (m, 5H), 3.96 (m, 1H), 5.90 (bd, 1H).

reactant | benzyl 4-{[(1-{3-tert-butoxy-2-[(2-methoxyethoxy)methyl]-3-oxopropyl}cyclopentyl)carbonyl]amino}cyclohexanecarboxylate | C(C)(C)(C)OC(C(CC1(CCCC1)C(=O)NC1CCC(CC1)C(=O)OCC1=CC=CC=C1)COCCOC)=O | C31H47NO7
catalyst | palladium on charcoal | 250 mg | [Pd] | Pd
solvent | water | 10 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-{[(1-{3-tert-Butoxy-2-[(2-methoxyethoxy)methyl]-3-oxopropyl}cyclopentyl)-carbonyl]amino}cyclohexanecarboxylic Acid | C(C)(C)(C)OC(C(CC1(CCCC1)C(=O)NC1CCC(CC1)C(=O)O)COCCOC)=O | C24H41NO7
